US04963578
(b) (9 Methyldecyl)-triphenylphosphonium bromide
A solution of 1-bromo-9-methyldecane (1.0 g) and triphenylphosphine (1.7 g) in xylene (50 ml) was heated under relfux for 24 hours. The mixture was cooled, the supernatant was decanted and the residue was washed with ether and further dried by addition of benzene and evaporation to give the title compound as a pale gum.

reactant | 1-bromo-9-methyldecane | 1.0 g | BrCCCCCCCCC(C)C | C11H23Br
reactant | triphenylphosphine | 1.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | (9 Methyldecyl)-triphenylphosphonium bromide | [Br-].CC(CCCCCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C29H38P.BrH/c1-26(2)18-10-5-3-4-6-17-25-30(27-19-11-7-12-20-27,28-21-13-8-14-22-28)29-23-15-9-16-24-29;/h7-9,11-16,19-24,26H,3-6,10,17-18,25H2,1-2H3;1H/q+1;/p-1
